US04138564
1-(6-Fluoro-3-nitro-2-pyridinyl)-4-carbobenzoxypiperazine-2-carboxylic acid
In a similar procedure to that described in Example 1, from 6.0 g. of 2,6-difluoro-3-nitropyridine, 9.0 g. of 4-carbobenzoxypiperazine-2-carboxylic acid, hydrochloride, 20 ml. of triethylamine and 150 ml. of dimethyl sulfoxide, there is obtained 14 g. of the title product as a viscous orange glass. Thin layer chromatographic analysis of this material shows essentially one spot.

reactant | 2,6-difluoro-3-nitropyridine | FC1=NC(=CC=C1[N+](=O)[O-])F | C5H2F2N2O2
reactant | 4-carbobenzoxypiperazine-2-carboxylic acid, hydrochloride | Cl.C(=O)(OCC1=CC=CC=C1)N1CC(NCC1)C(=O)O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 1-(6-Fluoro-3-nitro-2-pyridinyl)-4-carbobenzoxypiperazine-2-carboxylic acid | FC1=CC=C(C(=N1)N1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)O)[N+](=O)[O-] | C18H17FN4O6
